US08372837B2
To a stirring solution of tert-butyl 4-(1-(4-bromo-3-fluorophenyl)-3-cyano-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate (493 mg, 1.0 mmol) in DCM (5 mL) at room temperature under argon was added 4 M HCl in dioxane (1.25 mL, 5.0 mmol). The reaction mixture was stirred at room temperature overnight. Et2O (10 mL) was added to the reaction mixture. The solid product was collected by filtration and further washed with ether (2 mL×2). After drying under vacuum for 2 hours, 411 mg (100%) of 1-(4-bromo-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl salt was obtained as an off-white solid. MS (ESI) 393 (M+H).

reactant | tert-butyl 4-(1-(4-bromo-3-fluorophenyl)-3-cyano-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 1.0 mmol, 493 mg | BrC1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCN(CC1)C(=O)OC(C)(C)C)C#N)F | C21H22BrFN4O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 5.0 mmol, 1.25 mL | O1CCOCC1 | C4H8O2
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-3-fluorophenyl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl salt | 411 mg, 100% | Cl.BrC1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCNCC1)C#N)F | InChI=1S/C16H14BrFN4O2.ClH/c17-12-2-1-10(7-13(12)18)22-16(23)8-15(14(9-19)21-22)24-11-3-5-20-6-4-11;/h1-2,7-8,11,20H,3-6H2;1H
